US07932284B2
Propane-2-sulfinic acid [3-(4-cyano-3-fluoro-phenyl)-1-isopropyl-1H-indole-6-y]-amide
Cool a mixture of 1-Isopropyl-3-(4-cyano-3-fluoro-phenyl)-1H-indol-6-ylamine (0.442 g, 1.51 mmol) and triethylamine (0.306 g, 3.02 mmol) in methylene chloride (10 mL) in a brine/ice bath under argon and treated with a solution of isopropyl sulfonyl chloride (0.210 g, 1.66 mmol) in methylene chloride and the resulting mixture was stirred in the cooling bath for 30 min. After this time dilute the reaction with methylene chloride (40 mL); wash with a saturated aqueous sodium bicarbonate solution (50 mL), then water (50 mL), then brine (50 mL); and dry over sodium sulfate. Remove the solids by filtration; concentrate the filtrate under reduced pressure. Triturate the residue with boiling methylene chloride (×3) then boiling acetonitrile to afford the title compound (0.212 g, 37%) as a white solid: mp 173-175° C. dec;

reactant | 1-Isopropyl-3-(4-cyano-3-fluoro-phenyl)-1H-indol-6-ylamine | 1.51 mmol, 0.442 g | C(C)(C)N1C=C(C2=CC=C(C=C12)N)C1=CC(=C(C=C1)C#N)F | C18H16FN3
reactant | triethylamine | 3.02 mmol, 0.306 g | C(C)N(CC)CC | C6H15N
reactant | isopropyl sulfonyl chloride | 1.66 mmol, 0.210 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Propane-2-sulfinic acid [3-(4-cyano-3-fluoro-phenyl)-1-isopropyl-1H-indole-6-y]-amide | 0.212 g, 37% | C(#N)C1=C(C=C(C=C1)C1=CN(C2=CC(=CC=C12)NS(=O)C(C)C)C(C)C)F | C21H22FN3OS
